US05500443
Stage A: N-(2-Bromoethyl)-4-fluorobenzamide
To a suspension containing 0.23 mol of-bromoethylamine hydrobromide in 200 ml of chloroform, stirred at 5° C., is added dropwise a solution containing 0.21 mol of 4-fluorobenzoyl chloride in 50 ml of chloroform, followed by a solution containing 0.46 mol of triethylamine in 100 ml of chloroform. The mixture is then stirred at room temperature for 1 hour and then at reflux for 4 hours. After cooling and evaporation of the solvent, the residue is taken up in 200 ml of ether. After filtration of the salts and concentration of the solvent, the expected product is obtained by purification of the residue by chromatography on a column of silica, using a dichloromethane/acetone (98/2) mixture as eluent.

reactant | bromoethylamine hydrobromide | Br.BrCCN
reactant | 4-fluorobenzoyl chloride | 0.21 mol | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | triethylamine | 0.46 mol | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-Bromoethyl)-4-fluorobenzamide | BrCCNC(C1=CC=C(C=C1)F)=O | C9H9BrFNO
